US07476762B2
In another embodiment, a method for preparing 4-chloro-N-[(1S)-4,4,4-trifluoro-1-hydroxymethyl-2-(2,2,2-trifluoroethyl)-butyl]benzenesulfonamide is provided and includes (a) reacting 1,1,1-trifluoro-3-iodopropane with triphenylphosphine to form (3,3,3-trifluoropropyl)-triphenylphosphonium iodide; (b) reacting (3,3,3-trifluoropropyl)-triphenylphosphonium iodide and a base at a temperature of −70° C. to 25° C.; (c) reacting the product of step (b) with ethylchloroformate at a temperature below about −20° C. to form 4,4,4-trifluoro-2-(triphenyl-λ5-phosphanylidene)-butyric acid ester; (d) isolating 4,4,4-trifluoro-2-(triphenyl-λ5-phosphanylidene)-butyric acid ester by hydrocarbon trituration; (e) reacting dehydrated trifluoroacetaldehyde, which is free of acidic impurities, and 4,4,4-trifluoro-2-(triphenyl-λ5-phosphanylidene)-butyric acid ester to form 4,4,4-trifluoro-2-(2,2,2-trifluoroethyl)-but-2-enoic acid ester; (f) hydrogenating 4,4,4-trifluoro-2-(2,2,2-trifluoroethyl)-but-2-enoic acid ester to form 4,4,4-trifluoro-2-(2,2,2-trifluoroethyl)-butyric acid ester; (g) reacting 4,4,4-trifluoro-2-(2,2,2-trifluoroethyl)-butyric acid ester with N,O-dimethylhydroxylamine hydrochloride to form 4,4,4-trifluoro-N-methoxy-N-methyl-2-(2,2,2-trifluoroethyl)-butyramide; (h) reacting 4,4,4-trifluoro-N-methoxy-N-methyl-2-(2,2,2-trifluoroethyl)-butyramide with a first reducing agent to form 4,4,4-trifluoro-2-(2,2,2-trifluoroethyl)-butyraldehyde; (i) reacting 4,4,4-trifluoro-2-(2,2,2-trifluoroethyl)-butyraldehyde, a titanium alkoxide, and (S)-(+)-p-toluenesulfinamide to form N-methyl-N-[(1S)-4,4,4-trifluoro-2-(2,2,2-trifluoroethyl)-butylidene]benzenesulfinamide; (j) cyanating N-methyl-N-[(1S)-4,4,4-trifluoro-2-(2,2,2-trifluoroethyl)-butylidene]benzenesulfinamide to form N-methyl-benzenesulfinic acid [(1S)-1-cyano-4,4,4-trifluoro-2-(2,2,2-trifluoroethyl)-butyl]amide; (k) reacting N-methyl-benzenesulfinic acid [(1S)-1-cyano-4,4,4-trifluoro-2-(2,2,2-trifluoroethyl)-butyl]amide with an aqueous acid; (l) reacting the product of step (k) with an alcohol in the presence of an acid to form (2S)-2-amino-5,5,5-trifluoro-3-(2,2,2-trifluoroethyl)-pentanoic acid methyl ester; (m) reacting (2S)-2-amino-5,5,5-trifluoro-3-(2,2,2-trifluoroethyl)-pentanoic acid methyl ester with 4-chlorobenzenesulfonyl chloride to form (2S)-2-(4-chloro-benzenesulfonylamino)-5,5,5-trifluoro-3-(2,2,2-trifluoroethyl)-pentanoic acid methyl ester; (n) combining (2S)-2-(4-chloro-benzenesulfonylamino)-5,5,5-trifluoro-3-(2,2,2-trifluoroethyl)-pentanoic acid methyl ester and a second reducing agent to form 4-chloro-N-[(1S)-4,4,4-trifluoro-1-hydroxymethyl-2-(2,2,2-trifluoroethyl)-butyl]benzenesulfonamide; (o) quenching the product of step (n); and (p) isolating the 4-chloro N-[(1S)-4,4,4-trifluoro-1-hydroxymethyl-2-(2,2,2-trifluoroethyl)-butyl]benzenesulfonamide.

reactant | (2S)-2-amino-5,5,5-trifluoro-3-(2,2,2-trifluoroethyl)-pentanoic acid methyl ester | COC([C@H](C(CC(F)(F)F)CC(F)(F)F)N)=O | C8H11F6NO2
reactant | 4-chlorobenzenesulfonyl chloride | ClC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4Cl2O2S
product | (2S)-2-(4-chloro-benzenesulfonylamino)-5,5,5-trifluoro-3-(2,2,2-trifluoroethyl)-pentanoic acid methyl ester | COC([C@H](C(CC(F)(F)F)CC(F)(F)F)NS(=O)(=O)C1=CC=C(C=C1)Cl)=O | C14H14ClF6NO4S
